US04007202
A mixture of 4.45 g (10 mmoles) of 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one, 10 ml of propylene oxide, 3.6 g (20 mmoles) of N-bromosuccinimide, 50 mg of azo-isobutyronitrile, 100 ml of 1,2dichloroethane and 200 ml of carbon tetrachloride was heated for 5 hours at 76° C under nitrogen. After washing with sodium metabisulfite and water, the reaction mixture was concentrated and purified by column chromatography [silica gel; toluene-ethyl acetate 3:1 (v/v)] to obtain 1-(1-methoxycarbonyl-2-bromomethylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one. The structure was confirmed by PMR and IR spectroscopy.

reactant | 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one | 10 mmoles, 4.45 g | COC(=O)C(C(=C)C)N1C(C(C1SN1C(CCC1=O)=O)NC(CC1=CC=CC=C1)=O)=O | C21H23N3O6S
reactant | propylene oxide | 10 ml | C1C(C)O1 | C3H6O
reactant | N-bromosuccinimide | 20 mmoles, 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,2dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(1-methoxycarbonyl-2-bromomethylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one | COC(=O)C(C(=C)CBr)N1C(C(C1SN1C(CCC1=O)=O)NC(CC1=CC=CC=C1)=O)=O | C21H22BrN3O6S
